US05977105
A solution of 4-tert-butoxybenzeneboronic acid (0.50 g), 3-bromoanisole (0.44 g), and tetrakis(triphenylphosphine)palladium(0) (0.09 g) in toluene (5 ml), ethanol(1.2 ml) and aqueous sodium carbonate (2 M, 2.4 ml) was heated at 100° C. for 19 hours. After cooling the reaction mixture was added to brine (50 ml) and ethyl acetate (50 ml). The organic layer was separated and dried over anhydrous magnesium sulfate. The solution was then filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with hexane:toluene 9:1 to give 4-tert-butoxy-3'-methoxybiphenyl (0.61 g). (MS (EI) 256 (M)+). Trifluoroacetic acid (5 ml) was added to a solution of 4-tert-butoxy-3'-methoxybiphenyl (0.60 g) in dichloromethane (20 ml) and the resulting solution stirred for 1 hour. The solution was then concentrated under reduced pressure. The residue was partitioned between a solution of saturated aqueous sodium hydrogen carbonate (25 ml) and ether (3×25 ml). The combined extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with dichloromethane to give the sub-title compound as a solid (0.25 g).

reactant | 4-tert-butoxybenzeneboronic acid | 0.50 g | C(C)(C)(C)OC1=CC=C(C=C1)B(O)O | C10H15BO3
reactant | 3-bromoanisole | 0.44 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.2 ml | C(C)O | C2H6O
solvent | sodium carbonate | 2 M, 2.4 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | brine | 50 ml | [Cl-].[Na+].O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.09 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-tert-butoxy-3'-methoxybiphenyl | 0.61 g | C(C)(C)(C)OC1=CC=C(C=C1)C1=CC(=CC=C1)OC | C17H20O2
